* source P1_2024_432E_ANGELESCU_DENISA_SERS_N1_ORCAD
R_R1         N00707 N30997  22k TC=0,0 
R_R5         N00296 N00866  1K TC=0,0 
R_R8         0 N00895  100 TC=0,0 
R_R10         N01010 N00296  33 TC=0,0 
R_R11         N01014 N00296  33 TC=0,0 
R_R16         N01103 N47246  1 TC=0,0 
X_P1         N08738 N00707 N00707 POT PARAMS: SET=1 VALUE=10k
R_R17         N09220 N08738  1k TC=0,0 
R_R18         0 N09224  510 TC=0,0 
X_P2         N09224 N09228 N09220 POT PARAMS: SET=0.8 VALUE=5k
D_D2         0 N08738 BZX84-C2V7 
Q_Q2          N01018 N00707 N00974 QBC846B 
Q_Q1          N01051 N01073 N00974 QBC846B 
Q_Q4          N00866 N00866 N00895 QBC846B 
Q_Q10          N01051 N09228 0 QBC846B 
Q_Q7          N01051 N01103 N01073 QBC846B 
Q_Q8          N01085 N01051 N01103 QBC846B 
Q_Q3         N00974 N00866 N26783 QBC846B 
Q_Q5         N01051 N01018 N01014 QBC807-25 
Q_Q6         N01018 N01018 N01010 QBC807-25 
Q_Q9         N01103 N01085 N00296 QBC807-25 
R_R20         0 N26783  22 TC=0,0 
R_R26         N01073 0  100 TC=0,0 
R_R27         N01073 0  100 TC=0,0 
X_D3         N00296 N54444 LED PARAMS: IS=3.7602e-29 RS=1  BV=5 IBV=5e-6       
+   
R_R28         N30997 0  2.7k TC=0,0 
R_R29         N00296 N55538  100 TC=0,0 
R_R32         N54444 0  68 TC=0,0 
R_R33         N47246 N01073  1 TC=0,0 
C_C1         0 N01073  100n  TC=0,0 
V_V1         N00296 0 4
R_R34         N55538 N08738  100 TC=0,0 
